US07612075B2
B. 3-(6-Acetylamino-pyridin-3-yl)-acrylic acid
To a mixture of N-(5-bromo-pyridin-2-yl)-acetamide (1.26 g, 5.86 mmol) and tri-n-butylamine in xylenes (10 mL) is added Pd(OAc)2 (1.4 mg, 0.006 mmol) and triphenyl phosphine (15.4 mg, 0.06 mmol). Acrylic acid (0.48 mL, 7.03 mmol) is then added dropwise over 5 minutes. The mixture is heated to reflux for 5 hours. The solution is cooled to ambient temperatures. The mixture is diluted with water and the pH is adjusted to 4 with 1N HCl. The solution is extracted with EtOAc/CH2Cl2 (2:1). The resulting suspension is filtred to give the title compound (0.80 g, 3.88 mmol) as a white solid. MS (ion spray) 207, (M+H).

reactant | N-(5-bromo-pyridin-2-yl)-acetamide | 5.86 mmol, 1.26 g | BrC=1C=CC(=NC1)NC(C)=O | C7H7BrN2O
reactant | tri-n-butylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | Acrylic acid | 7.03 mmol, 0.48 mL | C(C=C)(=O)O | C3H4O2
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.006 mmol, 1.4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenyl phosphine | 0.06 mmol, 15.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(6-Acetylamino-pyridin-3-yl)-acrylic acid | 3.88 mmol, 0.80 g | C(C)(=O)NC1=CC=C(C=N1)C=CC(=O)O | C10H10N2O3
